US07795444B2
Preparation of (S)-methyl 5-[1-(2-phenylthiazol-4-yl)-2-(4-nitrophenyl)-ethylamino]thiazole-4-carboxylate (30):
To a suspension of potassium tert-butoxide (89 mg, 0.75 mmol) in THF (3 mL) is added methyl isocyanoacetate (65 μL, 0.68 mmol) followed by (S)-2-phenyl-4-(1-isothiocyanato-2-(4-nitrophenyl)ethyl)thiazole, 29, (250 mg, 0.68 mmol). The reaction mixture is stirred at room temperature for 2 hours then poured into sat. NaHCO3. The mixture is extracted with EtOAc (3×25 mL) and the combined organic layers are washed with brine and dried (Na2SO4) and concentrated in vacuo. The crude residue is purified over silica to afford 323 mg (˜100% yield) of the desired product as a slightly yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.09-8.13 (m, 2H), 7.95-7.98 (m, 3H), 7.84 (d, J=1.2 Hz, 1H), 7.44-7.50 (m, 3H), 7.28-7.31 (m, 2H), 7.96 (d, J=0.6 Hz, 1H), 4.71-4.78 (m, 1H), 3.92 (s, 3H), 3.60 (dd, J=13.8 and 6.0 Hz, 1H), 3.45 (dd, J=13.8 and 6.0 Hz, 1H).

reactant | potassium tert-butoxide | 0.75 mmol, 89 mg | CC(C)([O-])C.[K+]
reactant | methyl isocyanoacetate | 0.68 mmol, 65 μL | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | (S)-2-phenyl-4-(1-isothiocyanato-2-(4-nitrophenyl)ethyl)thiazole | C1(=CC=CC=C1)C=1SC=C(N1)[C@H](CC1=CC=C(C=C1)[N+](=O)[O-])N=C=S | C18H13N3O2S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (S)-methyl 5-[1-(2-phenylthiazol-4-yl)-2-(4-nitrophenyl)-ethylamino]thiazole-4-carboxylate | 323 mg, ˜100% yield | C1(=CC=CC=C1)C=1SC=C(N1)[C@H](CC1=CC=C(C=C1)[N+](=O)[O-])NC1=C(N=CS1)C(=O)OC | C22H18N4O4S2
